US05167863
In accordance with the procedure of Example 9, ethyl ester of 3-oxohexanoic acid as a substrate in place of ethyl ester of 2-methyl-3-oxobutyric acid was subjected to reduction by baker's yeast to obtain ethyl ester of (3R)-3-hydroxyhexanoic acid. This compound was subjected to methylation according to the process of the literature [G. Frater et al., Tetrahedron, 40, 1269 (1984)] as in Reference Example 3, to obtain ethyl ester of (2R, 3R)-3-hydroxy-2-methylhexanoic acid. This compound was converted to a methyl ether compound and then subjected to hydrolysis in accordance with the procedure of Example 11 to obtain the title compound.

reactant | 3-oxohexanoic acid | O=C(CC(=O)O)CCC | C6H10O3
reactant | 2-methyl-3-oxobutyric acid | CC(C(=O)O)C(C)=O | C5H8O3
product | (3R)-3-hydroxyhexanoic acid | O[C@@H](CC(=O)O)CCC | C6H12O3
